US04914177
Preparation of 4-bromo-2-nitroaniline-4-bromoaniline (51.6 grams) and acetic anhydride (210 ml) were mixed under strong agitation. The temperature is raised to 65° C. in 10 minutes and slowly decreased to room temperature in one hour. An ice bath is used to maintain the temperature between 15°-20° C. and nitric acid (density 1.42, 30 ml) was added drop by drop in one hour. A yellow 4-bromo-2-nitroacetanilide was isolated by pouring the acetic anhydride solution into ice water followed by filtration. Hydrolysis of the acid acetanilide in aqueous hydrochloric acid (100 ml of concentrated HCL and 500 ml of water) at reflux temperatures for three hours yielded a 57% yield of 4-bromo-2-nitroaniline having the melting point of 109° C.

reactant | 4-bromo-2-nitroaniline 4-bromoaniline | 51.6 grams | BrC1=CC(=C(N)C=C1)[N+](=O)[O-].BrC1=CC=C(N)C=C1
reactant | acetic anhydride | 210 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 4-bromo-2-nitroacetanilide | CC(=O)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C8H7BrN2O3
